data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_440269_1,[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])/[C:4]([N:5]([H:9])[H:10])=[N:7]\[H:11])([N:6]=[O:8])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[N:3]([C:2]([H:14])([H:15])[H:16])[N:6]1[O:8]/[C:4]([N:5]([H:9])[H:10])=[N:7]\[H:11],69.9279725000116
MR_197633_0,[C:1]([C:3]([H:12])([H:13])[H:18])([C:4]([H:15])([H:16])[H:17])([C:5]([H:14])([H:19])[H:20])[C:6]1([H:11])[C:2]([O:7][H:9])([H:10])[O:8]1>>[C:1]([C:3]([H:12])([H:13])[H:18])([C:4]([H:15])([H:16])[H:17])([C:5]([H:14])([H:19])[H:20])[C:6]([C:2](=[O:7])[H:10])([O:8][H:9])[H:11],34.472340000034336
MR_541065_1,[C:1]([C:2]([H:16])([H:17])[H:18])([C:3]([O:7][H:10])=[O:9])(/[C:4]([N:6]([H:13])[H:14])=[N:8]\[H:15])[N:5]([H:11])[H:12]>>[C:1](\[C:2]([H:16])([H:17])[H:18])(=[C:4](/[N:6]([H:13])[H:14])[N:8]([C:3]([O:7][H:10])=[O:9])[H:15])[N:5]([H:11])[H:12],47.97739500003715
MR_441589_0,[C:1]([N:3]([H:9])[H:10])(=[C:4]([H:11])[H:12])/[N:5]=[N:6]/[N:2]([H:7])[H:8]>>[C:1]1([N:3]([H:9])[H:10])=[N:5][N:6]([N:2]([H:7])[H:8])[C:4]1([H:11])[H:12],39.44966999998769
MR_314041_0,[N:1]([O:3][C:2](=[O:5])[H:8])([O:4][H:6])[H:7]>>[N:1]([O:4][H:6])([O:5][C:2](=[O:3])[H:8])[H:7],31.671180000008405
MR_284167_1,[C:1]([C:5]([H:18])([H:19])[H:20])([N:6]([H:11])[H:12])(/[N:8]=[C:7](/[C:2]1([H:10])[C:3]([H:14])([H:15])[C:4]1([H:16])[H:17])[H:13])[H:9]>>[C:1]([C:5]([H:18])([H:19])[H:20])([N:6]([H:11])[H:12])([N:8]1[C:4]([H:16])([H:17])[C:3]([H:14])([H:15])[C:2]([H:10])=[C:7]1[H:13])[H:9],51.11050250000972
MR_547293_1,[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])([C:6]([C:2]([C:5]([H:20])([H:21])[H:22])([N:7]([H:12])[H:13])[H:11])=[O:9])[O:8][H:10]>>[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])([C:6]1([C:5]([H:20])([H:21])[H:22])[C:2]([N:7]([H:12])[H:13])([H:11])[O:9]1)[O:8][H:10],55.11269750003521
MR_457317_1,[C:1]1([H:12])=[N:5][N:6]([H:9])[N:7]([H:10])[C:4]([C:2]([H:13])([H:14])[H:15])([H:11])[N:3]1[H:8]>>[C:1]([N:3](/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:7]\[H:10])[H:8])(/[N:5]=[N:6]/[H:9])([H:11])[H:12],67.10986999999278
MR_185053_0,[C:1]([C:4](=[C:5]([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[H:19])[N:6]([H:8])[H:9])([N:7]([H:10])[H:11])([H:12])[H:13]>>[C:1](=[C:4](/[C:5]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])[H:13])[N:6]([H:8])[H:9])(\[N:7]([H:10])[H:11])[H:12],67.46629000002031
MR_343129_1,[C:1]([C:4]([C:2]([H:17])([H:18])[H:19])=[C:7](/[C:6](=[C:3](\[N:5]([H:10])[H:11])[O:8][H:9])[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:4]1([C:2]([H:17])([H:18])[H:19])[C:3]([N:5]([H:10])[H:11])([O:8][H:9])[C:6]([H:12])=[C:7]1[H:13])([H:14])([H:15])[H:16],50.87205250000537
MR_9385_0,[C:1]([C:2]([C:3]([O:4][H:7])=[O:6])([H:11])[H:12])([O:5][H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([O:4][H:7])([O:6][H:8])[H:10])([H:11])[H:12])(=[O:5])[H:9],68.85745750000353
MR_443063_1,[C:1]([O:5][H:7])(/[N:6]=[C:4](/[C:2]([N:3]([H:8])[H:9])([H:13])[H:14])[H:12])([H:10])[H:11]>>[C:1](\[O:5][H:7])(=[N:6]/[C:4]([C:2]([N:3]([H:8])[H:9])([H:13])[H:14])([H:11])[H:12])[H:10],69.1310474999905
MR_614584_1,[C@:1]([C:2]([H:14])([H:15])[H:16])(/[C:5](=[C:6](\[C:3]([H:17])([H:18])[H:19])[H:13])[H:12])([O:7][N:4]([H:10])[H:11])[O:8][H:9]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:5](\[C@:6]([C:3]([H:17])([H:18])[H:19])([O:7][N:4]([H:10])[H:11])[H:13])[H:12])[O:8][H:9],47.499867499994366
MR_585761_1,[C:1]1([H:11])([H:12])[C@:3]([C:2]([H:13])([H:14])[H:15])([C:6]([C:4]([N:5]([H:9])[H:10])=[C:7]([H:18])[H:19])([H:16])[H:17])[O:8]1>>[C:1]([C:4]([N:5]([H:9])[H:10])=[C:7]([H:18])[H:19])([O:8][C:3]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])([H:11])[H:12],66.80867000000418
MR_628275_0,[C:1]1([O:5][H:7])([H:9])[C:2]([N:6]=[C:4]([H:11])[H:12])([H:10])[N:3]1[H:8]>>[C:1]([C:2]([N:3]([H:7])[H:8])([N:6]=[C:4]([H:11])[H:12])[H:10])(=[O:5])[H:9],41.746319999967625
MR_285648_2,[C:1]([C:2]([N:6]([H:12])[H:13])([H:14])[H:15])([N:4]([C:3]([H:16])([H:17])[H:18])[N:5]([H:10])[H:11])([O:7][H:8])[H:9]>>[C:1]([N:4]([C:2]([N:6]([H:12])[H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])([N:5]([H:10])[H:11])([O:7][H:8])[H:9],58.95989999998832
MR_148837_2,[C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[H:12])=[O:8])([O:5][H:9])([O:6][H:10])[O:7][H:11]>>[C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[H:12])([O:7][H:11])[O:8][H:10])([O:5][H:9])=[O:6],34.489910000025645
MR_635066_0,[C:1]([C:2]([H:11])([H:12])[H:13])(/[C:4]([C:3]([H:14])([H:15])[H:16])=[N:7]/[H:10])([O:5][H:8])[O:6][H:9]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([O:5][H:8])[C:4]([C:3]([H:14])([H:15])[H:16])([O:6][H:9])[N:7]1[H:10],69.84326000001147
MR_613393_1,[C:1](=[C:4](\[C:5]1([H:14])[C:2]([H:11])([H:12])/[C:3]1=[N:7]/[H:10])[H:13])(\[O:6][H:8])[H:9]>>[C:1]1([O:6][H:8])([H:9])/[C:3](=[N:7]\[H:10])[C:2]([H:11])([H:12])[C:5]([H:14])=[C:4]1[H:13],50.63611249999468
MR_114287_1,[C:1]([C:2]1([H:10])[C:3]([C:5]([H:16])([H:17])[H:18])([H:11])[C:4]1([H:14])[H:15])([N:6]([H:12])[H:13])([O:7][H:8])[H:9]>>[C:1]([C:3]([C:2](=[C:4]([H:14])[H:15])[H:10])([C:5]([H:16])([H:17])[H:18])[H:11])([N:6]([H:12])[H:13])([O:7][H:8])[H:9],72.22462249999154
